US07511175B2
2-Methyl-2-(2-methylsulfanyl-phenoxy)-propionic acid, ethyl ester
2-Methylsulfanyl-phenol (2.00 g, 14.29 mmol), 2-bromo-2-methyl-propionic acid, ethyl ester (28 g, 142.8 mmol) and powdered K2CO3 (4.93 g, 35.7 mmol) were mixed (no solvent) and stirred at 105° C. for 8 hrs. After cooling, water and CHCl3 were added. The CHC13 was separated, dried (MgSO4) and concentrated. Xylene was added and concentrated in vacuo (4 times) to remove the bromo ester. The resulting oil was chromatographed on silica, eluting with CH2Cl2 to obtain the title compound (2.30 g, 63% yield).

reactant | 2-Methylsulfanyl-phenol | 14.29 mmol, 2.00 g | CSC1=C(C=CC=C1)O | C7H8OS
reactant | 2-bromo-2-methyl-propionic acid, ethyl ester | 142.8 mmol, 28 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | K2CO3 | 35.7 mmol, 4.93 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 2-Methyl-2-(2-methylsulfanyl-phenoxy)-propionic acid, ethyl ester | 2.30 g, 63% yield | CC(C(=O)OCC)(C)OC1=C(C=CC=C1)SC | C13H18O3S
